US07786165B2
3-[4-({4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)-2-fluorophenyl]propanoic acid
To a solution of ethyl 3-[4-({4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)-2-fluorophenyl]propanoate (150 mg, 0.29 mmol) in ethanol (5 mL) and tetrahydrofuran (5 mL) was added 1 M aqueous sodium hydroxide solution (2 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into water, and the mixture was weakly acidified with 10% aqueous citric acid solution and extracted with ethyl acetate. The ethyl acetate layer was dried using a Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20%-80% ethyl acetate/hexane) to give the title compound (91 mg, yield 65%) as a yellow oil.

reactant | ethyl 3-[4-({4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)-2-fluorophenyl]propanoate | 0.29 mmol, 150 mg | C(C)(C)(C)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(CNC2=CC(=C(C=C2)CCC(=O)OCC)F)C=C1 | C32H36FN3O2
reactant | sodium hydroxide | 1 M, 2 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[4-({4-[(3-tert-butyl-5-phenyl-1H-pyrazol-1-yl)methyl]benzyl}amino)-2-fluorophenyl]propanoic acid | 91 mg, yield 65% | C(C)(C)(C)C1=NN(C(=C1)C1=CC=CC=C1)CC1=CC=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=C1 | C30H32FN3O2
